Double-pulse test: GaN half-bridge, SKY130 transistor-level segmented driver
* ===================================================================
* dpt.cir -- half-bridge double-pulse testbench
*
* Sequence (all timing is what the FPGA would emit):
*   0    .. T1   LS on, HS off        -- settle, inductor at ILOAD
*   T1        LS turns OFF            -- E_off, V_DS overshoot, ringing
*   T1..T2    DEAD TIME               -- HS conducts in 3rd quadrant, E_dt
*   T2        HS turns ON
*   T3        HS turns OFF
*   T3..T4    DEAD TIME
*   T4        LS turns ON  (hard)     -- E_on, and CROSSTALK on the HS gate
*
* The crosstalk event of interest is at T4: SW slews up... no, DOWN to 0,
* so the HS device sees dV_DS/dt > 0 across its Miller capacitance and
* its gate is pushed toward Vth.  Margin = Vth - max(V_GS,HS).
* ===================================================================

.include ../models/egan.lib
.lib "../pdk/sky130_5v.lib" tt
.include ../models/segdrv_sky130.lib
.include ../models/segdrv.lib

* ==================== PARAM BLOCK (swept by run_sweep.py) ==========
.param VBUS=100
.param ILOAD=10
.param VDRV=5
.param VNEG=0
.param NPU_LS=8
.param NPD_LS=8
.param NPU_HS=8
.param NPD_HS=8
.param DT=15n
.param CLKEN=0
.param CLKDEL=4n
.param RUNIT=8
.param TJ=25
* ==================== END PARAM BLOCK ==============================

* temperature scaling of the GaN device (datasheet trend:
*   Rds(on) roughly doubles 25->125 C, Vth falls slightly)
.param KT   = {1 + 0.009*(TJ-25)}
.param BH_T = {5.55/KT}
.param VTH_T= {1.4 - 0.0015*(TJ-25)}

.param RLOAD = 5
.param VOUT  = {ILOAD*RLOAD}
.param LLOOP = 3n
.param LLOAD = 100u
.param TR    = 0.1n
.param T1 = 1u
.param T2 = {T1+DT}
.param T3 = 2u
.param T4 = {T3+DT}
.param TSTOP = 3u

* ---------------- power stage --------------------------------------
Vbus   bus 0 DC {VBUS}
Rloop  bus n1  0.3                    $ loop R including skin effect at ~300 MHz.
*                                     $ 10m would give Q~600, which is unphysical:
*                                     $ real GaN half-bridges ring ~6 cycles, not 30.
Lloop  n1  hstop {LLOOP}
Vshs   hstop hsd DC 0                 $ HS drain current sense
Xhs    hsd hsg sw EGAN params: vth={VTH_T} bh={BH_T}
Vsls   sw  lsd DC 0                   $ LS drain current sense
Xls    lsd lsg 0  EGAN params: vth={VTH_T} bh={BH_T}

* Load as a real DC operating point rather than an initial condition.
* RLOAD sets the current exactly (I = VOUT/RLOAD) and L/R = 20 us, so the
* current is flat over the 3 us test.  This removes the need for UIC,
* which is what was collapsing the first timestep once BSIM4 devices
* were in the loop.
Lload  outx sw {LLOAD}
RL     out outx {RLOAD}
Vout   out 0 DC {VOUT}

* ---------------- FPGA timing (gnd-referenced logic) ---------------
Vpwmls pwmls 0 PWL(0 1 {T1} 1 {T1+TR} 0 {T4} 0 {T4+TR} 1)
Vpwmhs pwmhs 0 PWL(0 0 {T2} 0 {T2+TR} 1 {T3} 1 {T3+TR} 0)
Vclkls lsclk 0 PWL(0 0 {T1+CLKDEL} 0 {T1+CLKDEL+TR} {CLKEN} {T4} {CLKEN} {T4+TR} 0)
Vclkhs clkhs 0 PWL(0 {CLKEN} {T2} {CLKEN} {T2+TR} 0 {T3+CLKDEL} 0 {T3+CLKDEL+TR} {CLKEN})

* ---------------- low-side driver (gnd referenced) -----------------
Vlsvp  lsvp 0 DC {VDRV}
Vlsvn  lsvn 0 DC {VNEG}
Blspu  lspu 0 V = {v(pwmls)}
Blspd  lspd 0 V = {1-v(pwmls)}
Xdrvls lspu lspd lsclk lsg lsvp lsvn 0 SEGDRV
+      params: npu={NPU_LS} npd={NPD_LS} runit={RUNIT} rclamp=0.5

* ---------------- high-side driver (floating on SW) ----------------
* ideal level shifters -- a real design needs a proper HV shifter,
* which is listed as future work, not simulated here.
Vhsvp  hsvp sw DC {VDRV}
Vhsvn  hsvn sw DC {VNEG}
Bhspu  hspu sw V = {v(pwmhs)}
Bhspd  hspd sw V = {1-v(pwmhs)}
Bhsclk hsclkl sw V = {v(clkhs)}
Xdrvhs hspu hspd hsclkl hsg hsvp hsvn sw SEGDRV_SKY130
+      params: npu={NPU_HS} npd={NPD_HS}

* ---------------- analysis -----------------------------------------
* NOTE: trapezoidal on purpose.  Gear damps numerically and would
* quietly flatter the ringing metric, which is one of the objectives.
.options reltol=1e-3 abstol=1e-10 vntol=1e-6 chgtol=1e-15 gmin=1e-12
* rshunt puts a large resistor from every node to ground.  The GaN
* capacitance diodes carry essentially no conduction (IS=1e-30, N=40),
* so with BSIM4 devices in the loop the matrix is near-singular at the
* UIC start point and the first timestep collapses.  This is the
* standard remedy and 1 Gohm is electrically irrelevant here.
.options rshunt=1e9 itl1=500 itl4=200

.tran 0.02n {TSTOP} 0 0.05n

.control
run
wrdata out.dat v(sw) v(lsd) v(lsg) v(hsg) v(hsd) i(vsls) i(vshs)
quit
.endc
.end
